US07074933B2
1-[2-(4-Chlorophenyl)ethyl]-3-(1-methyl-2-oxo-4-trifluoromethyl-1,2-dihydroquinolin-6-yl)thiourea
Reaction of 6-amino-1-methyl-4-trifluoromethyl-1H-quinolin-2-one (Preparation 1, 200 μL of a 0.2 M solution in NMP, 40 μmol) with 2-(4-chlorophenyl)ethyl isothiocyanate (240 μL of a 0.2 M solution in NMP, 48 μmol), by the procedure outlined for Example 492, furnished the title compound (7.1 mg, 40%): RT=1.95 min; m/z (ES+)=440.1 [M+H]+.

reactant | 6-amino-1-methyl-4-trifluoromethyl-1H-quinolin-2-one | NC=1C=C2C(=CC(N(C2=CC1)C)=O)C(F)(F)F | C11H9F3N2O
reactant | 2-(4-chlorophenyl)ethyl isothiocyanate | ClC1=CC=C(C=C1)CCN=C=S | C9H8ClNS
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 1-[2-(4-Chlorophenyl)ethyl]-3-(1-methyl-2-oxo-4-trifluoromethyl-1,2-dihydroquinolin-6-yl)thiourea | 7.1 mg, 40% | ClC1=CC=C(C=C1)CCNC(=S)NC=1C=C2C(=CC(N(C2=CC1)C)=O)C(F)(F)F | C20H17ClF3N3OS
